US09303165B2
6-(4-Bromo-3-methyl-1H-pyrrol-2-yl)-1,1-dimethoxy-4,4-dimethyl-5-nitrohexan-2-one (6-H)
Following a general procedure,50 a sample of 6-Ts (9.12 g, 16.7 mmol) was treated with TBAF (34 mL, 1.0 M in THF, 34 mmol), and the reaction mixture was stirred for 1 h at reflux. A saturated solution of aqueous NaHCO3 (100 mL) was added followed by ethyl acetate (50 mL). The mixture was extracted with ethyl acetate. The organic layer was dried (Na2SO4), concentrated to a brown oil, dried under high vacuum for 2 h, and chromatographed (silica, CH2Cl2) to give a light brown oil (4.00 g, 61%): 1H NMR δ 1.13 (s, 3H), 1.22 (s, 3H), 1.95 (s, 3H), 2.60, 2.70 (AB, 2J=18.8 Hz, 2H), 2.99 (ABX, 2JAB=15.4 Hz, 3JBX=2.5 Hz, 1H), 3.24 (ABX, 2JAB=15.4 Hz, 3JAX=11.8 Hz, 1H), 3.41 (s, 3H), 3.42 (s, 3H), 4.38 (s, 1H), 5.12 (ABX, 3JAX=11.8 Hz, 3JBX=2.5 Hz, 1H), 6.59 (s, 1H), 8.29 (brs, 1H); 13C NMR δ 9.8, 24.4, 24.4, 25.6, 36.6, 45.4, 55.39, 55.40, 94.1, 99.0, 104.7, 116.1, 116.7, 122.5, 204.2; ESI-MS obsd 391.0864, calcd 391.0863 [(M+H)+, M=C15H23BrN2O5].

reactant | 6-(4-Bromo-3-methyl-N-tosylpyrrol-2-yl)-1,1-dimethoxy-4,4-dimethyl-5-nitrohexan-2-one | 16.7 mmol, 9.12 g | BrC=1C(=C(N(C1)S(=O)(=O)C1=CC=C(C)C=C1)CC(C(CC(C(OC)OC)=O)(C)C)[N+](=O)[O-])C | C22H29BrN2O7S
reactant | TBAF | 34 mmol, 1.0 M, 34 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 6-(4-Bromo-3-methyl-1H-pyrrol-2-yl)-1,1-dimethoxy-4,4-dimethyl-5-nitrohexan-2-one | 4.00 g, 61% | BrC=1C(=C(NC1)CC(C(CC(C(OC)OC)=O)(C)C)[N+](=O)[O-])C | C15H23BrN2O5
